US06180664B2
3,3-Bis(hydroxymethyl)-4-hydroxybutyronitrile
0.07 mol of KCN is added to 0.055 mol of 2,2-bis(hydroxymethyl)-3-hydroxypropyl bromide and the mixture is dissolved in 50 ml of acetonitrile and refluxed for 5 h, with stirring. After the solution has cooled, the solid is filtered off with suction and the mother liquor is concentrated. The residue is dissolved in chloroform, the residual KBr is separated off and the solvent is distilled off after drying. The desired nitrile is separated from the residue as a pale yellowish oil by column chromatography. Yield: 78%.

reactant | KCN | 0.07 mol | [C-]#N.[K+]
reactant | 2,2-bis(hydroxymethyl)-3-hydroxypropyl bromide | 0.055 mol | OCC(CBr)(CO)CO | C5H11BrO3
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 3,3-Bis(hydroxymethyl)-4-hydroxybutyronitrile | Yield: 78% | OCC(CC#N)(CO)CO | C6H11NO3
